US05728651
Preparation of 5,6,7,8 tetrahydro-2-[2,4-dichloro-5-(2-propynyloxy)phenyl]-6-fluoro-1,2,4-triazolo[4,3-α]pyridin-3(2H)-one
To a solution of 169 mg (0.477 mmol) of 5,6,7,8-tetrahydro-2-[2,4-dichloro-5-(2-propynyloxy)phenyl]-6-hydroxy-1,2,4-triazolo[4,3-a]pyridin-3(2H)-one in 5 mL of dichloromethane was added 76 μl (0.573 mmol) of diethylaminosulfur trifluoride (DAST) at 0° C. The reaction mixture was stirred at 0° C. for 1h. The mixture was then quenched with ice and extracted with dichloromethane. The organic extracts were dried (MgSO4), and then concentrated in vacuo to give a pale red solid. The crude product was purified by flash chromatography over silica gel, eluting with a 95:5 v:v mixture of dichloromethane and methanol to give 64 mg of the title product as a pale yellow foam. 19F NMR (CDCl3, 400 MHz) δ-188 ppm, 1H NMR (CDCl3, 400 MHz) δ 7.5 (s,1H), 7.1 (s,1H), 5.2 (m,1H), 4.8 (s,2H), 4.2-3.6 (m,2H), 3.2-3.0 (m,1H), 3.0-2.6 (m,1H), 2.5 (s,1H), 2.3-1.8 (m,2H).

reactant | 5,6,7,8-tetrahydro-2-[2,4-dichloro-5-(2-propynyloxy)phenyl]-6-hydroxy-1,2,4-triazolo[4,3-a]pyridin-3(2H)-one | 0.477 mmol, 169 mg | ClC1=C(C=C(C(=C1)Cl)OCC#C)N1N=C2N(CC(CC2)O)C1=O | C15H13Cl2N3O3
reactant | diethylaminosulfur trifluoride | 0.573 mmol, 76 μl | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 5,6,7,8 tetrahydro-2-[2,4-dichloro-5-(2-propynyloxy)phenyl]-6-fluoro-1,2,4-triazolo[4,3-α]pyridin-3(2H)-one | 64 mg | ClC1=C(C=C(C(=C1)Cl)OCC#C)N1N=C2N(CC(CC2)F)C1=O | C15H12Cl2FN3O2
